US06911476B2
Preparation of [(2S)-2-(4-bromophenoxy)propyl][(methylethyl)sulfonyl]amine.
The above prepared (2S)-2-(4-bromophenoxy)propylamine was combined in a 500 mL 3-neck round bottomed flask with triethylamine (5.7 mL) and methylene chloride (110 mL), fitted with a thermometer, stirbar, and in a nitrogen system. The reaction mixture was cooled to 0° C. in an ice bath, with stirring, and isopropylsulfonyl chloride (2.75 mL, 24.585 mmol) was added by syringe. The mixture was stirred overnight, gradually becoming room temperature. The reaction was quenched with 100 mL water, and extracted two times with 100 mL methylene chloride. The organic extractions were combined, and washed with 200 mL brine, dried with sodium sulfate, filtered and concentrated in-vacuo, yielding 2.08 g viscous brown oil. This material was further purified using one Waters Prep-Pak® on a Waters Prep 2000 HPLC, in a 3:1 hexanes:ethyl acetate solvent system to provide the final title compound (1.63 g, 30%) as a viscous yellow oil.

reactant | (2S)-2-(4-bromophenoxy)propylamine | BrC1=CC=C(O[C@H](CN)C)C=C1 | C9H12BrNO
reactant | triethylamine | 5.7 mL | C(C)N(CC)CC | C6H15N
reactant | isopropylsulfonyl chloride | 24.585 mmol, 2.75 mL | C(C)(C)S(=O)(=O)Cl | C3H7ClO2S
solvent | methylene chloride | 110 mL | C(Cl)Cl | CH2Cl2
product | [(2S)-2-(4-bromophenoxy)propyl][(methylethyl)sulfonyl]amine | 2.08 g | BrC1=CC=C(O[C@H](CNS(=O)(=O)C(C)C)C)C=C1 | C12H18BrNO3S
